US09422292B2
A solution of 1-(4-chlorophenyl)-4-thioxo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one (1.0 g, 3.3 mmol) and acetohydrazide (1.23 g, 16.6 mmol) in n-butanol (20 ml) was refluxed for 24 h under N2 atmosphere. The solvent was evaporated in vacuo and partitioned between DCM (100 mL) and water (50 mL). The organic phase was dried over Na2SO4 and the solvent was evaporated in vacuo to afford a residue. The residue was purified by column chromatography (silica-gel, DCM:MEOH=30:1) to give 6-(4-chlorophenyl)-1-methyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-5(6H)-one (430.0 mg, 40%). LRMS (M+H+) m/z: calcd 324.08. found 324. 1H NMR (300 MHz, CD3OD): δ 2.72 (s, 3H), 3.94 (q, J=14.1 Hz, 2H), 7.15-7.24 (m, 3H), 7.40-7.52 (m, 4H), 7.70-7.73 (m, 1H).

reactant | 1-(4-chlorophenyl)-4-thioxo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 3.3 mmol, 1.0 g | ClC1=CC=C(C=C1)N1C2=C(NC(CC1=O)=S)C=CC=C2 | C15H11ClN2OS
reactant | acetohydrazide | 16.6 mmol, 1.23 g | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 6-(4-chlorophenyl)-1-methyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-5(6H)-one | 430.0 mg, 40% | ClC1=CC=C(C=C1)N1C2=C(N3C(CC1=O)=NN=C3C)C=CC=C2 | C17H13ClN4O
